US04283414
A mixture of pentafluorobenzyl fluoride (0.37 g), N-bromosuccinimide (0.36 g) and dry carbon tetrachloride (30 ml) was heated under reflux and irradiated with ultra violet light for a period of 4 hr. The reaction mixture was cooled, the insoluble material was removed by filtration and the solvent was removed by distillation under reduced pressure to give α-bromopentafluorobenzyl fluoride. The product was characterised by p.m.r. spectroscopy. Chemical shift δ ppm (solvent CDCl3): 7.63(d, J=48Hz).

reactant | pentafluorobenzyl fluoride | 0.37 g | FC1=C(C(=C(C(=C1CF)F)F)F)F | C7H2F6
reactant | N-bromosuccinimide | 0.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-bromopentafluorobenzyl fluoride | BrC(C1=C(C(=C(C(=C1F)F)F)F)F)F | C7HBrF6
